US05939439
Step 1: 5-Cyano-5'-methyl-[1,2']bipyridinyl-2-one
To a suspension of 5-bromo-5'-methyl-[1,2']bipyridinyl-2-one (0.29 g, 1.09 mmol) and zinc cyanide (0.154 g, 1.30 mmol) in degassed DMF (3 ml) was added tetrakis (triphenylphosphine) palladium (151 mg, 0.13 mmol) and the reaction warmed to 95° C. for 4 hrs. The reaction was cooled and quenched with NH4OH (10 ml) and water (30 ml). The aqueous phase was extracted with CH2Cl2, dried (MgSO4), and evaporated in vacuo The residue was chromatographed (silica gel, EtOAc: CH2Cl2 10:90 to 12:88 gradient elution) to afford the title compound.

reactant | 5-bromo-5'-methyl-[1,2']bipyridinyl-2-one | 1.09 mmol, 0.29 g | BrC=1C=CC(N(C1)C1=NC=C(C=C1)C)=O | C11H9BrN2O
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.30 mmol, 0.154 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis (triphenylphosphine) palladium | 0.13 mmol, 151 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-Cyano-5'-methyl-[1,2']bipyridinyl-2-one | C(#N)C=1C=CC(N(C1)C1=NC=C(C=C1)C)=O | C12H9N3O
